US04144391
7-(2-(4-pyridylthio)acetamido)cephalosporanic acid is reacted with 1-methyl-1H-tetrazole-5-thiol, yielding 3-(((1-methyl-1H-tetrazol-5-yl)thio)methyl)-7-(2-(4-pyridylthio)acetamido)-3-cephem-4-carboxylic acid.

reactant | 7-(2-(4-pyridylthio)acetamido)cephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CSC3=CC=NC=C3)SC1)C(=O)O | C17H17N3O6S2
reactant | 1-methyl-1H-tetrazole-5-thiol | CN1N=NN=C1S | C2H4N4S
product | 3-(((1-methyl-1H-tetrazol-5-yl)thio)methyl)-7-(2-(4-pyridylthio)acetamido)-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CSC2=CC=NC=C2)=O)=O | C17H17N7O4S3
